US04369321
The N-ethoxycarbonyl-bis(2,2,6,6-tetramethyl-4-piperidyl)-amine is prepared by reacting bis(2,2,6,6-tetramethyl-4-piperidyl)-amine with ethyl chlorocarbonate in chloroform at 10°-20° C. in the presence of aqueous NaOH. The product obtained, which has a purity of 99.2% and melts at 117° C., can be used directly.

reactant | bis(2,2,6,6-tetramethyl-4-piperidyl)-amine | CC1(NC(CC(C1)NC1CC(NC(C1)(C)C)(C)C)(C)C)C | C18H37N3
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | NaOH | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-ethoxycarbonyl-bis(2,2,6,6-tetramethyl-4-piperidyl)-amine | C(C)OC(=O)N(C1CC(NC(C1)(C)C)(C)C)C1CC(NC(C1)(C)C)(C)C | C21H41N3O2
